US08058273B2
3-[2-methoxy-4-(3-oxo-3-phenyl-propenyl)-phenyl]-acrylic acid tert-butyl ester (635 mg, 1.74 mmol) was dissolved in DCM (12 ml) and TFA (3 ml) was added to the resulting solution. After stirring for 2 h at room temperature the solvent was removed under vacuo giving 541 mg of 3-[2-methoxy-4-(3-oxo-3-phenyl-propenyl)-phenyl]-acrylic acid as yellow powder.

reactant | 3-[2-methoxy-4-(3-oxo-3-phenyl-propenyl)-phenyl]-acrylic acid tert-butyl ester | 1.74 mmol, 635 mg | C(C)(C)(C)OC(C=CC1=C(C=C(C=C1)C=CC(C1=CC=CC=C1)=O)OC)=O | C23H24O4
reactant | TFA | 3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 12 ml | C(Cl)Cl | CH2Cl2
product | 3-[2-methoxy-4-(3-oxo-3-phenyl-propenyl)-phenyl]-acrylic acid | 541 mg, Yield=99% | COC1=C(C=CC(=C1)C=CC(C1=CC=CC=C1)=O)C=CC(=O)O | C19H16O4
